US08809267B2
To the trifluoroacetate salt of 2-(1-cyclopropoxysulfonylaminocarbonyl-2-vinyl-cyclopropylcarbamoyl)-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (181 mg, 0.253 mmol) Rh/AlO3 (37.2 mg, 5 wt %) was added and the mixture was suspended in EtOAc (4.5 mL) and EtOH (1.0 mL). The reaction flask was flushed with H2 gas and the reaction was allowed to stir at room temperature under a hydrogen atmosphere for 3 h. The reaction was filtered through a syringe tip filter (0.45 μM) and washed with ethanol. The filtrate was concentrated and then filtered through a C-18 RP SPE column (Phenomenex Strata, 1 g) and washed with methanol. The filtrate was concentrated and purified on silica (12 g, 0-7% MeOH/CH2Cl2) to give 2-(1-cyclopropoxysulfonylaminocarbonyl-2-ethyl-cyclopropylcarbamoyl)-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (151 mg, 83%). LCMS found 619.1 [M+H]+.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 2-(1-cyclopropoxysulfonylaminocarbonyl-2-vinyl-cyclopropylcarbamoyl)-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.253 mmol, 181 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=NC=CC2=CC(=CC=C12)OC)C(NC1(C(C1)C=C)C(=O)NS(=O)(=O)OC1CC1)=O | C29H36N4O9S
solvent | EtOAc | 4.5 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 1.0 mL | CCO | C2H6O
product | 2-(1-cyclopropoxysulfonylaminocarbonyl-2-ethyl-cyclopropylcarbamoyl)-4-(6-methoxy-isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 151 mg, 83% | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=NC=CC2=CC(=CC=C12)OC)C(NC1(C(C1)CC)C(=O)NS(=O)(=O)OC1CC1)=O | C29H38N4O9S
